US08686024B2
(2) Synthesis of tert-butyl N-methyl-N-(4-tetrahydropyranylmethyl)carbamate
To a solution of tert-butyl N-(4-tetrahydropyranylmethyl)carbamate (610 mg, 2.8 mmol) and iodomethane (805 mg, 5.6 mmol) in 6.0 mL of N,N-dimethylformamide was added sodium hydride (60%, 227 mg, 5.6 mmol) under ice-cooled conditions. After the reaction mixture was stirred at room temperature overnight, the solution was added with saturated NH4Cl aqueous solution, and diluted with ethyl acetate. The separated organic layer was washed with brine, and dried over Na2SO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography (hexane/ethyl acetate=90/10 to 70/30) to obtain the title compound (607 mg, 95%).

reactant | tert-butyl N-(4-tetrahydropyranylmethyl)carbamate | 2.8 mmol, 610 mg | O1CCC(CC1)CNC(OC(C)(C)C)=O | C11H21NO3
reactant | iodomethane | 5.6 mmol, 805 mg | IC | CH3I
reactant | sodium hydride | 5.6 mmol, 227 mg | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-methyl-N-(4-tetrahydropyranylmethyl)carbamate | 607 mg, 95% | CN(C(OC(C)(C)C)=O)CC1CCOCC1 | C12H23NO3
